### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): analytic order of a composition

### PR DESCRIPTION
**Pull request by loefflerd**
Show that:
- The analytic and/or meromorphic order of a function at a point is well-behaved under composition with an analytic function.
- Local inverses of analytic functions are analytic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 1]
```diff
@@ -8,6 +8,8 @@ module
 public import Mathlib.Algebra.Order.WithTop.Untop0
 public import Mathlib.Analysis.Analytic.Order
 public import Mathlib.Analysis.Meromorphic.Basic
+public import Mathlib.Analysis.Calculus.Deriv.Mul
+public import Mathlib.Analysis.Calculus.Deriv.Pow
```
Comment (loefflerd) [inline Mathlib/Analysis/Meromorphic/Order.lean]:
```suggestion
```

File: Mathlib/Analysis/Analytic/Order.lean [hunk 2]
```diff
@@ -275,6 +277,27 @@ lemma analyticOrderAt_smul {f : 𝕜 → 𝕜} (hf : AnalyticAt 𝕜 f z₀) (hg
     exact eventually_nhds_iff.2
       ⟨t ∩ s, fun y hy ↦ (by simp [h₁t y hy.1, h₁s y hy.2]; module), h₂t.inter h₂s, h₃t, h₃s⟩
 
+theorem AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero {x : 𝕜} (hf : AnalyticAt 𝕜 f x)
+    (hf' : deriv f x ≠ 0) : analyticOrderAt (f · - f x) x = 1 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Order.lean:302]: I think I would suggest taking a more general approach for this lemma. I would first prove (which I think is missing):
```lean
-- if you want, replace `hf'` with `∃ᶠ x' in 𝓝 x, (deriv f) x' ≠ 0`, or `¬ EventuallyConst (deriv f) (𝓝 x)`
theorem AnalyticAt.analyticOrderAt_deriv_add_one {x : 𝕜} (hf : AnalyticAt 𝕜 f x)
    (hf' : analyticOrderAt (deriv f) x ≠ ⊤) :
	analyticOrderAt (deriv f) x + 1 = analyticOrderAt (f · - f x) x := by
```
Then your result here should follow pretty easily by noting that `deriv (f · - f x) = deriv f` and the `analyticOrderAt (deriv f) x = 0` from [AnalyticAt.analyticOrderAt_eq_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Analytic/Order.html#AnalyticAt.analyticOrderAt_eq_zero). I might even add specializations for the case when `f x = 0` (or prove that first and derive the generic version from that one, which might make more sense).

Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Order.lean:302]: Alternatively, you could write a variant of that lemma as:
```lean
theorem AnalyticAt.analyticOrderAt_of_deriv {x : 𝕜} (hf : AnalyticAt 𝕜 f x) {n : ℕ}
    (hf' : analyticOrderAt (deriv f) x = n):
	analyticOrderAt (f · - f x) x = n + 1 := by
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 3]
```diff
@@ -803,3 +815,113 @@ lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
     filter_upwards [heq, han.continuousAt.tendsto.eventually_ne hne] with z hz hzne
     simp only [inv_pow, Function.comp_apply, inv_smul_eq_iff₀ (pow_ne_zero r hzne)]
     rw [← mul_smul (h z ^ r), mul_comm, pow_mul, ← mul_pow, ← smul_eq_mul, ← hz]
+
+/-- If `g` is analytic at `x`, `f` is meromorphic at `g x`, and `g` is not locally constant near
+`x`, the order of `f ∘ g` is the product of the orders of `f` and `g`. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Order.lean]: I understand you're thinking about the case where `g x = 0`, which is what I would do too. You might even consider having that as a separate lemma where `g x = 0` is a hypothesis.
```suggestion
/-- If `g` is analytic at `x`, `f` is meromorphic at `g x`, and `g` is not locally constant near
`x`, the order of `f ∘ g` is the product of the orders of `f` and `g · - g x`. -/
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 4]
```diff
@@ -803,3 +815,113 @@ lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
...
+    · rw [meromorphicOrderAt_eq_top_iff] at hf' ⊢
+      rw [Function.comp_def, ← eventually_map (P := fun x ↦ f x = 0)]
+      exact EventuallyEq.filter_mono hf' (hg.map_nhdsNE hg_nc)
+    · simp [(show AnalyticAt 𝕜 (g · - g x) x by fun_prop).analyticOrderAt_eq_zero]
+  -- Now the interesting case. First unpack the data
+  have hr := (WithTop.coe_untop₀_of_ne_top hf').symm
+  rw [meromorphicOrderAt_ne_top_iff hf] at hf'
+  set r := (meromorphicOrderAt f (g x)).untop₀
+  rw [hr]
+  -- Now write `F = (· - g x) ^ r • G` for `G` analytic and nonzero at `g x`
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Order.lean]: right? This should match the code better I think.
```suggestion
  -- Now write `f = (· - g x) ^ r • F` for `F` analytic and nonzero at `g x`
```

File: Mathlib/Data/ENat/Basic.lean [hunk 5]
```diff
@@ -581,6 +581,11 @@ protected def _root_.RingHom.ENatMap {S : Type*} [CommSemiring S] [PartialOrder
     [DecidableEq S] [Nontrivial S] (f : ℕ →+* S) (hf : Function.Injective f) : ℕ∞ →+* WithTop S :=
   {MonoidWithZeroHom.ENatMap f.toMonoidWithZeroHom hf, f.toAddMonoidHom.ENatMap with}
 
+@[simp]
+protected lemma map_mul {R : Type*} [NonAssocSemiring R] [DecidableEq R] [CharZero R] (a b : ℕ∞) :
```
Comment (j-loreaux) [inline Mathlib/Data/ENat/Basic.lean]: unless you have some reason that you explicitly eschewed this naming.
```suggestion
@[simp]
protected lemma map_natCast_mul {R : Type*} [NonAssocSemiring R] [DecidableEq R] [CharZero R] (a b : ℕ∞) :
```

**Review by j-loreaux — COMMENTED** [review]
Looks pretty good overal. Thanks! A few comments, but nothing major.

File: Mathlib/Analysis/Analytic/Order.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Analysis/Analytic/Order.lean:302]: I had a stab at this, and I managed to prove
```
theorem AnalyticAt.analyticOrderAt_deriv_add_one {x : 𝕜} (hf : AnalyticAt 𝕜 f x)
    [CompleteSpace E] [CharZero 𝕜] :
    analyticOrderAt (deriv f) x + 1 = analyticOrderAt (f · - f x) x := by
```
Note no ` ≠ ⊤` assumption is needed (because `⊤ + 1 = ⊤`); but the proof is fairly long (~40 lines) and requires two new assumptions which aren't needed for the specific case `AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero` currently in the PR, namely `CompleteSpace E` and `CharZero 𝕜`. The former is nothing much to lose sleep over, IMHO, since analytic-function theory is uninteresting over non-complete spaces; but the latter is a genuine loss – there really are people who care about analytic functions over `𝔽ₚ((X))`. So, while I am happy to add this `deriv_add_one` lemma if you think it's useful in its own right, I think it would not be ideal to derive `analyticOrderAt_sub_eq_one_of_deriv_ne_zero` from it.

Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Order.lean:302]: Aha, yes, I forgot about nonzero characteristic. I do think the `deriv_add_one` lemma with the `CharZero` assumption would still be useful, but I agree that you shouldn't derive the existing lemma from it.

However, I *think* there are salvageable versions of this? For instance, I think this inequality is true:
```lean
theorem AnalyticAt.analyticOrderAt_le_deriv_add_one {x : 𝕜} (hf : AnalyticAt 𝕜 f x)
    [CompleteSpace E] : 
    analyticOrderAt (f · - f x) x ≤ analyticOrderAt (deriv f) x + 1 := by
```
If I'm correct, then this could be used to prove your lemma (since `analyticOrderAt (f · - f x) x` is clearly positive). I think that one can also recover equality in the following situation:
```lean
theorem AnalyticAt.analyticOrderAt_deriv_add_one_of_lt {x : 𝕜} (hf : AnalyticAt 𝕜 f x)
    [CompleteSpace E] (h : analyticOrderAt (f · - f x) < ringChar 𝕜) : 
    analyticOrderAt (deriv f) x + 1 = analyticOrderAt (f · - f x) x := by
```
It's possible I'm wrong about the above, as analysis in nonzero characteristic is outside my area of expertise.

Comment (loefflerd) [reply Mathlib/Analysis/Analytic/Order.lean:302]: I think it is enough to assume that `ringChar 𝕜` does not divide `analyticOrderAt (f · - f x) x`. But I feel this is getting a little bit far afield from the original aims of the PR. 

I'm not sufficiently expert in the characteristic > 0 theory to predict what formulations would be useful / interesting; can I suggest we leave generalisations in this direction to future contributors?

Comment (kebekus) [reply Mathlib/Analysis/Analytic/Order.lean:302]: I would like to second @loefflerd here. I agree that @j-loreaux's lemma  would be nice to have in the library, but finding the right level of generality is a problem for itself, perhaps best solved later.

File: Mathlib/Analysis/Calculus/InverseFunctionTheorem/Analytic.lean [hunk 6]
```diff
@@ -0,0 +1,43 @@
...
+/-!
+# Analyticity of local inverses
+-/
+
+@[expose] public section
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] {f : 𝕜 → 𝕜} {a : 𝕜}
+
+namespace AnalyticAt
+
```
Comment (kebekus) [inline Mathlib/Analysis/Calculus/InverseFunctionTheorem/Analytic.lean:23]: While I agree that `hasStrictDerivAt` is the right thing to say, I wonder if this file is the canonical place (=the place where I would go looking for the statement if I searched for it). Perhaps one should move the lemma to line 146 of 'Mathlib.Analysis.Calculus.FDeriv.Analytic', right after `AnalyticAt.hasStrictFDerivAt`?

File: Mathlib/Analysis/Calculus/InverseFunctionTheorem/Analytic.lean [hunk 7]
```diff
@@ -0,0 +1,43 @@
...
+variable [CompleteSpace 𝕜] [CharZero 𝕜]
+
+/-- The local inverse of an analytic function (at a point where its derivative does not vanish)
+is itself analytic. -/
+lemma analyticAt_localInverse (hf : AnalyticAt 𝕜 f a) (hf' : deriv f a ≠ 0) :
+    AnalyticAt 𝕜 (hf.hasStrictDerivAt.localInverse _ _ _ hf') (f a) := by
+  have hfd : HasStrictFDerivAt f
+    (((ContinuousLinearEquiv.unitsEquivAut 𝕜) (Units.mk0 _ hf'))).toContinuousLinearMap
+    a := hf.hasStrictDerivAt
```
Comment (kebekus) [inline Mathlib/Analysis/Calculus/InverseFunctionTheorem/Analytic.lean]: Trivial comment: I got a bit confused by the line break. Perhaps break the line after 'a :=' and not before?

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 8]
```diff
@@ -786,7 +787,18 @@ alias codiscrete_setOf_order_eq_zero_or_top := codiscrete_setOf_meromorphicOrder
 
 end MeromorphicOn
 
-lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
+section comp
+/-!
+## Vanishing order of a composition of functions
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Trivial comment: For uniform language throughout the file, I recommend replacing 'Vanishing order' by 'Order'. Also, note the title case used in this file.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 9]
```diff
@@ -786,7 +787,18 @@ alias codiscrete_setOf_order_eq_zero_or_top := codiscrete_setOf_meromorphicOrder
...
+-/
+variable {x : 𝕜} {f : 𝕜 → E} {g : 𝕜 → 𝕜}
+
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean:711]: Since this is a statement about `analyticOrderAt` and not `meromorphicOrderAt`, perhaps move the statement to `Mathlib/Analysis/Analytic/Order.lean`?

For uniformity of the API, it might make sense have an analogous statement here, speaking about `meromorphicOrderAt` and pointed neighborhoods … but then even that should probably not be in this section, as it does not speak about orders of compositions of functions.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 10]
```diff
@@ -786,7 +787,18 @@ alias codiscrete_setOf_order_eq_zero_or_top := codiscrete_setOf_meromorphicOrder
...
+lemma eventuallyConst_iff_analyticOrderAt_sub_eq_top :
+    EventuallyConst f (𝓝 x) ↔ analyticOrderAt (f · - f x) x = ⊤ := by
+  simpa [eventuallyConst_iff_exists_eventuallyEq, analyticOrderAt_eq_top, sub_eq_zero]
+    using ⟨fun ⟨c, hc⟩ ↦ (show f x = c from hc.self_of_nhds) ▸ hc, fun h ↦ ⟨_, h⟩⟩
+
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Since this is not a statement about orders, I suggest moving it out of the section `Vanishing order of a composition of functions`.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 11]
```diff
@@ -803,3 +815,112 @@ lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
...
+  have aux2 : meromorphicOrderAt (F ∘ g) x = 0 := by
+    rw [AnalyticAt.meromorphicOrderAt_eq (by fun_prop),
+      analyticOrderAt_eq_zero.mpr (by exact .inr hFne), ENat.map_zero, CharP.cast_eq_zero,
+      WithTop.coe_zero]
+  rw [meromorphicOrderAt_congr aux1,
+    meromorphicOrderAt_smul ?_ (AnalyticAt.meromorphicAt <| ?_), aux2, add_zero,
+    meromorphicOrderAt_zpow, AnalyticAt.meromorphicOrderAt_eq] <;>
+  fun_prop
+
+/-- Analytic order of a composition of analytic functions. -/
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Since this is a statement about analytic functions and `analyticOrderAt`, I recommend moving it out of this file, to `Mathlib/Analysis/Analytic/Order.lean`

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 12]
```diff
@@ -803,3 +815,112 @@ lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
...
+    rw [eventuallyConst_iff_analyticOrderAt_sub_eq_top] at hg_nc this
+    rw [hg_nc]
+    by_cases hf' : f (g x) = 0
+    · simpa [hf', show analyticOrderAt f (g x) ≠ 0 by grind [analyticOrderAt_ne_zero]]
+    · rw [show analyticOrderAt f (g x) = 0 from ?_, zero_mul] <;>
+      grind [hf.comp hg, AnalyticAt.analyticOrderAt_eq_zero]
+  simpa [hf.meromorphicOrderAt_eq, (hf.comp hg).meromorphicOrderAt_eq, ← ENat.map_natCast_mul]
+    using hf.meromorphicAt.meromorphicOrderAt_comp hg hg_nc
+
+lemma meromorphicAt_comp_iff_of_deriv_ne_zero (hg : AnalyticAt 𝕜 g x) (hg' : deriv g x ≠ 0)
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Since this is not a statement about orders, I suggest moving it out of the section Vanishing order of a composition of functions.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 13]
```diff
@@ -803,3 +815,112 @@ lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
...
+    [CompleteSpace 𝕜] [CharZero 𝕜] :
+    meromorphicOrderAt (f ∘ g) x = meromorphicOrderAt f (g x) := by
+  by_cases hf : MeromorphicAt f (g x)
+  · have hgo : analyticOrderAt _ x = 1 := hg.analyticOrderAt_sub_eq_one_of_deriv_ne_zero hg'
+    rw [hf.meromorphicOrderAt_comp hg, hgo] <;>
+    simp [eventuallyConst_iff_analyticOrderAt_sub_eq_top, hgo]
+  · rw [meromorphicOrderAt_of_not_meromorphicAt hf, meromorphicOrderAt_of_not_meromorphicAt]
+    rwa [meromorphicAt_comp_iff_of_deriv_ne_zero hg hg']
+
+lemma analyticAt_comp_iff_of_deriv_ne_zero (hg : AnalyticAt 𝕜 g x) (hg' : deriv g x ≠ 0)
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Since this is not a statement about meromorphic function or orders, I recommend moving it to `Mathlib/Analysis/Analytic/Basic.lean`

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 14]
```diff
@@ -803,3 +815,112 @@ lemma MeromorphicAt.comp_analyticAt {g : 𝕜 → 𝕜}
...
+  refine ⟨fun hf ↦ ?_, (AnalyticAt.comp · hg)⟩
+  let r := hg.hasStrictDerivAt.localInverse _ _ _ hg'
+  have hra : AnalyticAt 𝕜 r (g x) := hg.analyticAt_localInverse hg'
+  have : r (g x) = x := HasStrictFDerivAt.localInverse_apply_image ..
+  rw [← this] at hf
+  exact (hf.comp hra).congr <| .fun_comp (HasStrictDerivAt.eventually_right_inverse ..) f
+
+/-- If `g` is analytic at `x`, and `g' x ≠ 0`, then the analytic order of
+`f ∘ g` at `x` is the analytic order of `f` at `g x` (even if `f` is not analytic). -/
+lemma analyticOrderAt_comp_of_deriv_ne_zero (hg : AnalyticAt 𝕜 g x) (hg' : deriv g x ≠ 0)
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Since this is a statement about analytic functions and analyticOrderAt, I recommend moving it out of this file, to `Mathlib/Analysis/Analytic/Order.lean`

**Review by kebekus — COMMENTED** [review]
This PR establishes a host of fundamental statements badly needed in the library. Thanks for working on this!

While I believe that all statements suggested by @loefflerd should be included without modification, I feel that several of them are not in their canonical location, where I would expect to find them. I suggest moving those. Apart from that, I have no concerns merging this PR.

File: Mathlib/Analysis/Calculus/InverseFunctionTheorem/Analytic.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/Analysis/Calculus/InverseFunctionTheorem/Analytic.lean]: Good point. For readability, I have given a name to `ContinuousLinearEquiv.unitsEquivAut 𝕜 (Units.mk0 _ hf')` in this proof.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 9 above)
Comment (loefflerd) [reply Mathlib/Analysis/Meromorphic/Order.lean:711]: Good point. I have moved the lemma about `analyticOrderAt`. For the corresponding lemma about `meromorphicOrderAt` the best formulation I could find was 
```
EventuallyConst f (𝓝[≠] x) ↔ ∃ c, meromorphicOrderAt (f · - c) x = ⊤
```
because `f x` itself might be arbitrary, it doesn't have to be equal to `c`. I have added it (at the top of the file, not in the compositions section).

Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean:711]: I totally agree that a statement for meromorphic functions can only ever talk about pointed neighbourhoods.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 13 above)
Comment (loefflerd) [reply Mathlib/Analysis/Meromorphic/Order.lean]: It needs the analyticity of inverse functions, so I have moved it to `Mathlib.Analysis.Calculus.InverseFunctionTheorem.Analytic`.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 12 above)
Comment (loefflerd) [reply Mathlib/Analysis/Meromorphic/Order.lean]: I have moved it to `Meromorphic/Basic.lean` (and likewise `MeromorphicAt.comp_analyticAt`).

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 13 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Roger.

**Review by kebekus — APPROVED** [review]

File: Mathlib/Analysis/Analytic/Order.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Order.lean:302]: okay, we can leave it as-is for now. Thanks for bothering to take the time to do the version I suggested anyway!

**Comment by j-loreaux** [comment]
Thanks!

bors merge
